US06599902B2
Synthesis of 5-(2,6-Difluoro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((S)-3-pyrrolidin-1-ylmethyl-piperidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-difluoro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (236 mg), HATU (1.2 eq.), (R)-3-pyrrolidin-1-ylmethyl-piperidine (2×) in DMF (2.5 mL) was stirred at rt for 2 hours. The reaction was concentrated, diluted with DCM, washed with water (2×), sodium carbonate (2×), dried and concentrated. The residue was purified on a silica gel column to give 120 mg of the titled compound as a yellow solid.

reactant | 5-[5-(2,6-difluoro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 236 mg | FC1=C(C(=CC=C1)F)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18F2N2O5S
reactant | HATU | 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-3-pyrrolidin-1-ylmethyl-piperidine | N1(CCCC1)C[C@H]1CNCCC1 | C10H20N2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 5-(2,6-Difluoro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((S)-3-pyrrolidin-1-ylmethyl-piperidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 120 mg | FC1=C(C(=CC=C1)F)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1C[C@@H](CCC1)CN1CCCC1)C | C33H36F2N4O4S
